US06277999B1
4-Cyano-1-(2,6-difluorobenzyl)-1H-1,2,3-triazole
A mixture of 2,6-difluorobenzyl azide (34.2 9), 2-chloroacrylonftrile (26.6 g) and water (125 ml) is stirred at about 70° C. for 24 hours. Excess 2-chloroacrylonitrile is distilled off by raising the external temperature to about 130° C. The mixture is cooled to about 95° C. and the product is crystallized by seeding. After cooling to about 40° C., the suspension is treated with cyclohexane (50 ml) and brought to about 20° C., and the product is isolated by filtration, washed with cyclohexane (75 ml) and then with water and dried in vacuo at about 60° C. Yield: 36.38 g=82.6%.

reactant | 2,6-difluorobenzyl azide | FC1=C(CN=[N+]=[N-])C(=CC=C1)F | C7H5F2N3
solvent | water | 125 ml | O | H2O
product | 4-Cyano-1-(2,6-difluorobenzyl)-1H-1,2,3-triazole | C(#N)C=1N=NN(C1)CC1=C(C=CC=C1F)F | C10H6F2N4
